### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/InfiniteSum/NatInt): Add pnat lems

### PR DESCRIPTION
**Pull request by CBirkbeck**
Add some basic results about tsums indexed by pnat.

---

- [x] depends on: #16543

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 1]
```diff
@@ -524,3 +524,32 @@ lemma multipliable_int_iff_multipliable_nat_and_neg {f : ℤ → G} :
...
 end Int
+
+section pnat
+
+@[to_additive]
+theorem pnat_multipliable_iff_multipliable_succ {α : Type*} [TopologicalSpace α] [CommMonoid α]
+    {f : ℕ → α} : (Multipliable fun x : ℕ+ => f x) ↔ Multipliable fun x : ℕ => f (x + 1) := by
+  rw [← Equiv.multipliable_iff _root_.Equiv.pnatEquivNat]
+  constructor
+  repeat {refine fun hf => by apply Multipliable.congr hf (by refine fun b => by simp)}
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:535]:
```suggestion
    {f : ℕ → α} : Multipliable (fun x : ℕ+ => f x) ↔ Multipliable fun x : ℕ => f (x + 1) :=
  Equiv.pnatEquivNat.symm.multipliable_iff.symm
```

File: Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean [hunk 2]
```diff
@@ -524,3 +524,32 @@ lemma multipliable_int_iff_multipliable_nat_and_neg {f : ℤ → G} :
...
+      have hf3 : Multipliable ((fun n : ℕ => f (n + 1)) ∘ PNat.natPred) := by
+        apply Multipliable.congr hf2 (by refine fun b => by simp)
+      rw [Multipliable.hasProd_iff hf3]
+      congr
+      funext
+      rw [comp_apply, PNat.natPred_add_one]
+    exact symm (HasProd.tprod_eq hpos)
+  · rw [tprod_eq_one_of_not_multipliable hf2]
+    rw [pnat_multipliable_iff_multipliable_succ] at hf2
+    rw [tprod_eq_one_of_not_multipliable hf2]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/NatInt.lean:553]:
```suggestion
    (f : ℕ → α) : ∏' n : ℕ+, f n = ∏' n, f (n + 1) := (Equiv.pnatEquivNat.symm.tprod_eq _).symm
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by kim-em** [comment]
Please act on Yael's suggestions before merging.

bors d+
